US07989454B2
4-[3-[7-(3-Benzo[1,3]dioxol-5-yl-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid
To a solution of 4-[3-[7-(3-bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid (100 mg, 0.17 mmol) in EtOH (4 mL)/H2O (1 mL) were added 3,4-methylenedioxyphenylboronic acid (58 mg, 0.35 mmol), potassium carbonate (100 mg, 0.7 mmol) and Pd(PPh3)4 (5 mg, 0.004 mmol). The mixture was heated at 78° C. for 5 h and then cooled to room temperature. The reaction mixture was filtered using a syringe filter 0.45 μm and the filtrate concentrated under reduced pressure. The crude oil was then purified by preparative HPLC using acetonitrile/water gradient. HRMS calcd for C36H39NO8 [M+H]+ 614.2749, observed 614.2748

reactant | 4-[3-[7-(3-bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | 0.17 mmol, 100 mg | BrC=1C=C(C=C(C1)C(N(C)C)=O)C#CCCCCCC=1C(=C(OCCCC(=O)O)C=CC1)CCC(=O)O | C29H34BrNO6
reactant | H2O | 1 mL | O | H2O
reactant | 3,4-methylenedioxyphenylboronic acid | 0.35 mmol, 58 mg | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | potassium carbonate | 0.7 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[3-[7-(3-Benzo[1,3]dioxol-5-yl-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | O1COC2=C1C=CC(=C2)C=2C=C(C=C(C2)C(N(C)C)=O)C#CCCCCCC=2C(=C(OCCCC(=O)O)C=CC2)CCC(=O)O | C36H39NO8
